US06727264B1
(1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL 3-(2,6-DICHLOROPHENYL)-5-METHYL-4-ISOXAZOLECARBOXYLATE:
Prepared by Procedure Q1 and Scheme C2 (TEA) using N-(3-{1-[(3S)-3-hydroxy-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 3-(2,6-dichlorophenyl)-5-methyl-4-isoxazolecarbonyl chloride: ESMS m/e: 633.6 (M+H)+.

reactant | N-(3-{1-[(3S)-3-hydroxy-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | O[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H32N2O2
reactant | 3-(2,6-dichlorophenyl)-5-methyl-4-isoxazolecarbonyl chloride | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1C(=O)Cl)C | C11H6Cl3NO2
product | (1S)-3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}-1-PHENYLPROPYL 3-(2,6-DICHLOROPHENYL)-5-METHYL-4-ISOXAZOLECARBOXYLATE | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1C(=O)O[C@@H](CCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O)C1=CC=CC=C1)C | C35H37Cl2N3O4
